US04439433
A mixture of 75 g of tritylamine, 50 g of syn isomer of ethyl 2-(2-tritylamino-4-thiazolyl)-2-(2-bromoethoxyimino)-acetate and 100 ml of dimethylsulfoxide was stirred under argon at 60° C. for 82 hours and after the temperature returned to room temperature, 10 volumes of water were added thereto. The mixture was vacuum filtered and the recovered product was washed with water and dissolved in a liter of chloroform. The solution was washed with water, with an aqueous saturated sodium chloride solution, dried and evaporated to dryness under reduced pressure at less than 40° C. The residue was added to a mixture of 320 ml of dioxane, 2 liters of absolute ethanol and 200 ml of sodium hydroxide solution and the mixture was stirred at room temperature for 24 hours and was evaporated to dryness under reduced pressure at not more than 40° C. The residue was empasted 5 times with 60 ml of a 1-7 dioxane-ethanol mixture and was then added to a liter of water and a liter of chloroform. The pH of the mixture was adjusted to 2 by stirring with sufficient N hydrochloric acid and the decanted organic phase was washed with water and with aqueous saturated sodium chloride solution, was dried and evaporated to dryness under reduced pressure at less than 40° C. The residue was suspended in 300 ml of dichloroethane and the mixture was heated at 50° C. for 15 minutes and was then vacuum filtered at room temperature. The product was successively rinsed with dichloroethane, isopropyl ether and ether and dried to a constant weight to obtain 40 g of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-(2-tritylaminoethoxyimino)acetic acid in the form of a powder melting at 176° C.

reactant | tritylamine | 75 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
reactant | ethyl 2-(2-tritylamino-4-thiazolyl)-2-(2-bromoethoxyimino)-acetate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)OCC)=NOCCBr | C28H26BrN3O3S
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(2-tritylamino-4-thiazolyl)-2-(2-tritylaminoethoxyimino)acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H38N4O3S
